US08017612B2
6-amino-2-cyclopropyl-pyrimidin-4-ol
A mixed solution of cyclopropanecarboxamidine hydrochloride (0.30 g), ethyl cyanoacetate (0.27 ml) and methanol (1.5 ml) was added to 28% sodium methoxide methanol solution (2.0 ml) under ice-cooling. After heating under reflux for 1 hr, the mixture was cooled to room temperature. The reaction mixture was concentrated under reduced pressure, and the obtained residue was adjusted to pH 5 with water and acetic acid. The precipitated solid was collected by filtration, washed with water and dried to give the title compound (0.30 g).

reactant | cyclopropanecarboxamidine hydrochloride | 0.30 g | Cl.C1(CC1)C(=N)N
reactant | ethyl cyanoacetate | 0.27 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium methoxide methanol | 2.0 ml | CO.C[O-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
product | 6-amino-2-cyclopropyl-pyrimidin-4-ol | 0.30 g | NC1=CC(=NC(=N1)C1CC1)O | C7H9N3O
